US07455858B2
Skin Fluorescence of benzoporphyrin from Polymeric Nanoparticles
Drug formulations were diluted with 5% dextrose to 174 μM (verteporfin) and intravenously injected into female SKH1 mice at 1.4 μmol/kg (active). Following injections, the mice were then kept in the dark or in subdued lighting.

reactant | verteporfin | CC1=C2C=C3N=C(C=C4NC(=CC=5C(=C(C(N5)=CC(=C1C=C)N2)C)CCC(=O)O)C(=C4C)CCC(=O)OC)C6(C3=CC=C(C6C(=O)OC)C(=O)OC)C.CC1=C2C=C3N=C(C=C4NC(=CC=5C(=C(C(N5)=CC(=C1C=C)N2)C)CCC(=O)OC)C(=C4C)CCC(=O)O)C6(C3=CC=C(C6C(=O)OC)C(=O)OC)C | 2C41H42N4O8
solvent | dextrose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
product | benzoporphyrin | C12=CC=C(N1)C=C1C=CC(=N1)C=C1C=CC(N1)=CC=1C3=C(C(N1)=C2)C=CC=C3 | C24H16N4
